US07365085B2
f. N-(2-[4-Methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride
The titled compound was prepared from N-(2-[4-methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine in 66% yield in the same manner as the preparation of N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine in Example 184g. MS (ESI) 550 (MH+)

reactant | N-(2-[4-methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine | COC1=CC=C(C=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)OC)C | C30H33ClF3NO4
reactant | N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine | ClC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | C28H28Cl2F3NO3
product | N-(2-[4-Methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | 66% yield | Cl.COC1=CC=C(C=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | InChI=1S/C29H31ClF3NO4.ClH/c1-20(22-10-12-24(37-2)13-11-22)18-34(19-23-7-4-9-26(28(23)30)29(31,32)33)14-5-15-38-25-8-3-6-21(16-25)17-27(35)36;/h3-4,6-13,17,20H,5,14-16,18-19H2,1-2H3,(H,35,36);1H
